US04751227
In 200 ml of N,N-dimethylformamide, 33.17 g of 1-(imidazo[1,2-a]pyridin-6-yl)-2-propanone was stirred at 80° C. for 1 hour, together with 45.4 g of N,N-dimethylformamide dimethyl acetal. After cooling, the solvent was removed by distillation under reduced pressure. The residue was purified by silica gel chromatography (eluted with chloroform-methanol=97:3) to obtain 32.46 g (74.5%) of 4-dimethylamino-3-(imidazo[1,2-a]pyridin-6-yl)-3-buten-2-one.

reactant | 1-(imidazo[1,2-a]pyridin-6-yl)-2-propanone | 33.17 g | N=1C=CN2C1C=CC(=C2)CC(C)=O | C10H10N2O
reactant | N,N-dimethylformamide dimethyl acetal | 45.4 g | COC(N(C)C)OC | C5H13NO2
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 4-dimethylamino-3-(imidazo[1,2-a]pyridin-6-yl)-3-buten-2-one | 32.46 g, 74.5% | CN(C=C(C(C)=O)C=1C=CC=2N(C1)C=CN2)C | C13H15N3O
